US09056862B2
To a solution of 1-(t-butyloxycarbonyl)-4-(aminomethyl)piperidine (2.14 g) in N,N-dimethylformamide (20 ml) was added 1,1′-thiocarbonyldiimidazole (1.87 g), and the mixture was stirred at room temperature for 4 hr. The reaction mixture was poured into ice water (100 ml), and extracted with ethyl acetate (100 ml). The extract was washed successively with 0.5M hydrochloric acid, 1M aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=4/1) to give [1-(t-butyloxycarbonyl)piperidin-4-yl]methyl isothiocyanate (1.64 g).

reactant | 1-(t-butyloxycarbonyl)-4-(aminomethyl)piperidine | 2.14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | 1,1′-thiocarbonyldiimidazole | 1.87 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | [1-(t-butyloxycarbonyl)piperidin-4-yl]methyl isothiocyanate | 1.64 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN=C=S | C12H20N2O2S
